US04654358
4-(1.4.5-Triphenylimidazol-2-yl mercapto)-butyric acid
80 g of 4-(1.4.5-triphenylimidazol-2-yl mercapto)-butyric acid ethyl ester are dissolved in 700 cc. of ethanol at 80° C. 22 g of sodium hydroxide dissolved in 200 cc. of ethanol are added thereto and the mixture is stirred for 3 hours at 80° C. The solvent is distilled off, the residue is washed with ether and acidified with dilute hydrochloric acid. The resulting acid is triturated in chloroform, the chloroform solution is washed with water, dried over sodium sulfate and the solvent is distilled off.

reactant | 4-(1.4.5-triphenylimidazol-2-yl mercapto)-butyric acid ethyl ester | 80 g | C(C)OC(CCCSC=1N(C(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)=O | C27H26N2O2S
reactant | sodium hydroxide | 22 g | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 4-(1.4.5-Triphenylimidazol-2-yl mercapto)-butyric acid | C1(=CC=CC=C1)N1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)SCCCC(=O)O | C25H22N2O2S
